US07462639B2
N-[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-3-trifluoromethyl-benzamide
N-[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-3-trifluoromethyl-benzamide was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (250 mg, 0.81 mmol) and 3-(trifluoromethyl)benzoyl chloride (131 μl, 0.89 mmol). The title compound was obtained as light brown powder (195 mg, 50%).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.81 mmol, 250 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C16H18N6O
reactant | 3-(trifluoromethyl)benzoyl chloride | 0.89 mmol, 131 μl | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
product | N-[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-3-trifluoromethyl-benzamide | C(C)N1C(C(C=2C=C3C(=CC12)N=C(N3)C3=NNC=C3NC(C3=CC(=CC=C3)C(F)(F)F)=O)(C)C)=O | C24H21F3N6O2
